US04236002
(-)-α-Amino-3-(thiocyanatomethyl)-4-hydroxybenzeneacetic acid
A solution of (-)-α-amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid (0.5 g, 1.98 mmole) and potassium thiocyanate (0.4 g, 4.12 mmole) in 10 ml of methanol is stirred at room temperature for 16 hours. The reaction mixture is filtered to remove the potassium chloride, the filtrate is evaporated and to the residue is added saturated aqueous sodium bicarbonate until the pH is 7. The title compound precipitates as a white powder which is filtered and dried. (1.83 g, 78% yield), NMR (TFA-D+D2O) ppm (δ) 4.1 (s,2), 5.08 (s,1), 6.9-7.3 (m,3).

reactant | (-)-α-amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid | 1.98 mmole, 0.5 g | NC(C(=O)O)C1=CC(=C(C=C1)O)CCl | C9H10ClNO3
reactant | potassium thiocyanate | 4.12 mmole, 0.4 g | [S-]C#N.[K+]
solvent | methanol | 10 ml | CO | CH4O
product | (-)-α-Amino-3-(thiocyanatomethyl)-4-hydroxybenzeneacetic acid | 78% yield | NC(C(=O)O)C1=CC(=C(C=C1)O)CSC#N | C10H10N2O3S
